US06861424B2
To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(methoxycarbonyl)propyl]aminocarbonyl-4-chloroquinoline (150 mg, 0.315 mmol) in DMSO (3.0 mL) was added (R)-3-hydroxypiperidine (68 mg, 0.5 mmol) and DIEA (65 mg, 0.5 mL). The mixture was heated at 110° C. for 18 hours. The crude reaction mixture was treated with lithium hydroxide (3.0 mL 0.25 M) for 4 hours. The reaction was purified by preparative HPLC to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-(3-hydroxypyrrolidin-1-yl)quinoline (41.0 mg); NMR (DMSO-d6) 1.2 (t, 3), 2.00-2.20 (m, 4), 2.45 (m, 2), 3.30-3.75 (m, 8), 4.05 (q, 2), 4.60 (s, 1), 5.11 (m, 1), 7.39 (s, 1), 7.65 (m, 1), 7.95 (m, 1), 8.28 (m, 1), 8.58 (br s, 1), 9.75 (m, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(methoxycarbonyl)propyl]aminocarbonyl-4-chloroquinoline | 0.315 mmol, 150 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC)NC(=O)C1=NC2=CC=CC=C2C(=C1)Cl | C23H27ClN4O6
reactant | (R)-3-hydroxypiperidine | 0.5 mmol, 68 mg | O[C@H]1CNCCC1 | C5H11NO
reactant | DIEA | 0.5 mL, 65 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | lithium hydroxide | 0.25 M, 3.0 mL | [OH-].[Li+]
solvent | DMSO | 3.0 mL | CS(=O)C | C2H6OS
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-(3-hydroxypyrrolidin-1-yl)quinoline | 41.0 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)O)NC(=O)C1=NC2=CC=CC=C2C(=C1)N1CC(CC1)O | C26H33N5O7
